US07470680B2
tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate.
To 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (900 mg, 2.58 mmol) was added sodium carbonate (548 mg, 5.17 mmol), lithium chloride (219 mg, 5.17 mmol), tert-butyl 4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate (856 mg, 2.58 mmol) and deairared 1,4-dioxane (15 mL) at rt temperature, followed by tetrakis(triphenylphosphine)palladium(0) (149 mg, 0.1297 mol), and H2O (1 mL). The resulting light brown mixture was stirred at 80° C. for 2 hr, and the conversion was completed as determined by LC/MS. After cooling down to rt, the mixture was partitioned between H2O/EtOAc (50 mL/100 mL). After separation, the organic phase was washed with brine, dried (Na2SO4), concentrated on rotary vacuo, and purified on Biotage Flash Collector eluting with 30-80% EtOAc/Hexanes (1200 mL) to afford the expected product, tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate (998 mg, 80%) as a white solid. 1H-NMR (400 MHz, MeOD) δ ppm 1.12 (s, 18 H) 1.49 (s, 9 H) 2.52 (s, 2 H) 3.47 (s, 3 H) 3.62 (s, 2 H) 4.00 (s, 3 H) 4.09 (s, 2 H) 5.78 (s, 1 H) 6.65 (s, 1 H) 7.33(s, 1 H) 7.51 (s, 1 H). Mass spec 486.28 (MH+) Calc for C27H43N3O3Si 485.31.

reactant | 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 2.58 mmol, 900 mg | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)B(O)O | C17H29BN2O3Si
reactant | sodium carbonate | 5.17 mmol, 548 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 5.17 mmol, 219 mg | [Cl-].[Li+]
reactant | tert-butyl 4-(trifluoromethylsulfonyloxy)-5,6-dihydropyridine-1(2H)-carboxylate | 2.58 mmol, 856 mg | FC(S(=O)(=O)OC1=CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1297 mol, 149 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 998 mg, 80% | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)C2=CCN(CC2)C(=O)OC(C)(C)C | C27H43N3O3Si
